US04476132
8.15 g of p-aminobutyrophenone are dissolved in 300 ml of methylene chloride and the solution is cooled to -30° under nitrogen. 5.96 g of tert-butyl hypochlorite are then added dropwise and, in the course of this, the mixture is slowly cooled to -65°. Stirring is then carried out for 10 minutes at -65°, 7.37 g of methylthioacetic acid ethyl ester are added dropwise, the mixture is left for one hour at -65°, 5.55 g of triethylamine are added, and the mixture is slowly allowed to warm to room temperature. 100 ml of water are then added, the organic layer is separated off and subsequently washed with 100 ml of water, the aqueous phases are extracted twice with methylene chloride, and the organic phases are combined, dried over magnesium sulphate, filtered and concentrated to dryness by evaporation under reduced pressure. The residue obtained by concentration by evaporation is dissolved in 200 ml of diethyl ether, 25 ml of 2N hydrochloric acid are added and the mixture is stirred overnight at room temperature. The mixture is then diluted with 50 ml of water, the organic phase is separated off, the aqueous phase is washed with 100 ml of diethyl ether, the organic phases are combined, washed with a mixture of 50 ml of water and 10 ml of 2N hydrochloric acid, dried over magnesium sulphate and concentrated to dryness by evaporation, and the residue is suspended in diethyl ether, filtered with suction and dried under reduced pressure. 5-Butyryl-3-methylthiooxindole having a melting point of 133°-136° is obtained.

reactant | p-aminobutyrophenone | 8.15 g | NC1=CC=C(C=C1)C(CCC)=O | C10H13NO
reactant | tert-butyl hypochlorite | 5.96 g | ClOC(C)(C)C | C4H9ClO
reactant | methylthioacetic acid ethyl ester | 7.37 g | C(C)OC(CC)=S | C5H10OS
reactant | hydrochloric acid | 2N, 25 ml | Cl | ClH
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | water | 50 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | triethylamine | 5.55 g | C(C)N(CC)CC | C6H15N
product | 5-Butyryl-3-methylthiooxindole | C(CCC)(=O)C=1C=C2C(C(NC2=CC1)=S)C | C13H15NOS
